US07629356B2
3 -(3-Bromobenzoyl)pyridine-2-carbonitrile
A suspension of highly active zinc (Rieke zinc) in THF (100 mg/mL, 12.7 mL, 19.4 mmol) was added via a syringe to a solution of 3-bromo-2-cyanopyridine (1.189 g, 6.497 mmol) in anhydrous THF (20 mL) under an atmosphere of argon. The mixture was stirred for four h at room temperature and then at 50° C. for 15 min. The remaining zinc powder was allowed to settle at the bottom of the flask overnight at −20° C. The top solution was transferred to another flask and cooled to −20° C. To this was added a 1 M solution of copper cyanide di(lithium bromide) complex in THF (6.82 mL) and the resulting mixture was stirred for 5 min at −20° C. and for 35 min at 0° C. and then cooled to −30° C. prior to the addition of 3-bromobenzoyl chloride (1.78 g, 8.12 mmol). The mixture was stirred for 6 h during which time the temperature went from −30° C. to 0° C. The reaction was quenched by the addition of saturated ammonium chloride solution and ethyl acetate was added. The phases were separated and the organic phase was washed with 1 M sodium carbonate solution and with brine. The solution was dried over magnesium sulfate and evaporated. Purification by column chromatography using a gradient of increasing concentration of ethyl acetate in heptane (0-50%) gave 1.18 g (63% yield) of the title compound. 1H NMR (CDCl3) δ 8.92 (dd, 1H), 7.98 (dd, 1H), 7.96 (t, 1H), 7.84-7.81 (m, 1H), 7.73-7.70 (m, 1H), 7.68 (dd, 1H), 7.43 (t, 1H); MS (CI) m/z M+ 287, 289.

reactant | 3-bromo-2-cyanopyridine | 6.497 mmol, 1.189 g | BrC=1C(=NC=CC1)C#N | C6H3BrN2
reactant | 3-bromobenzoyl chloride | 8.12 mmol, 1.78 g | BrC=1C=C(C(=O)Cl)C=CC1 | C7H4BrClO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 6.82 mL | C1CCOC1 | C4H8O
catalyst | zinc | [Zn] | Zn
solvent | THF | 19.4 mmol, 12.7 mL | C1CCOC1 | C4H8O
product | 3 -(3-Bromobenzoyl)pyridine-2-carbonitrile | 1.18 g, 63% yield | BrC=1C=C(C(=O)C=2C(=NC=CC2)C#N)C=CC1 | C13H7BrN2O
